Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodinated Contrast- Oral and IV Dye
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
___- EGD 

 
History of Present Illness:
___ y/o prisoner with recent admission for traumatic SDH, h/o 
pAfib (AC on hold), sarcoidosis (on mtx/inflix), bipolar 
disorder with suicidal attempts, who presented to ___ with 
fever, found to be Flu B positive and transferred to ___ due 
to lack of ICU beds. History was obtained from the patient and 
records.

Patient was recently admitted to the Neurosurgical service on 
___ after fall with headstrike and SDH. Anticoagulation 
was held and not restarted on discharge. He completed 7 day 
course of Keppra. He was discharged back to ___. He 
was seen again in the ED on 2 separate occasions for altered 
mental status and fever on ___ and ___. He was discharged 
without intervention on these occasions. Patient was seen in 
___ clinic on ___ and cleared to restart 
anticoagulation, with plan for repeat CT in 2 weeks. 

Per report, patient presented to OSH on ___ with ongoing 
symptoms of fever, myalgias, headache, cough, vomiting, and 
diarrhea. He was found to be flu B positive. Stool was 
reportedly guaiac positive. Labs notable for normal WBC, Hgb 8. 
OSH planned to admit to ICU but had no beds available and 
transferred patient to ___. Given 2L of IV fluid prior to 
arrival. 

 
Past Medical History:
- Traumatic brain injury with small SDH and SAH (___)
- Paroxysmal atrial fibrillation (anticoagulation on hold)
- Affective disorder without clear diagnosis (MDD vs. bipolar), 
multiple suicide attempts
- Extrapulmonary sarcoidosis on methotrexate, infliximab
- Acute liver failure due to acetaminophen overdose in ___ 
(recovered normal liver function)
- Multifactorial anemia -- chronic inflammation ___ sarcoidosis, 
iron deficiency, B12 deficiency, ?pernicious anemia
- Diabetes mellitus, not insulin dependent
- Elevated PSA
- Gastroesophageal reflux
- Gastroparesis
- Lymphadenopathy
- Migraine headaches
- Myopathy
- Osteoporosis
 
Social History:
___
Family History:
Significant heart disease, stroke, MS, dementia; no known liver 
history. 
 
Physical Exam:
ADMISSION EXAM:
========================
VS:  afebrile, BP 100s (baseline), HR ___, SpO2 high ___ on RA
General: Thin dypshoric man in NAD. Shackled to bed, accompanied
by guards.
HEENT: Temporal wasting. No icterus or injection. MMM.
Neck: Normal ROM, no meningismus.
CV: RRR, no murmurs.
Resp: CTAB.
Abd: Very thin, soft, NDNT, no HSM.
GU: Foley with clear urine.
Extr: Warm, no edema. 
Neuro: Fatigued but alert, oriented to person and year only.
Intact attention (DOWB). Neuro exam limited by poor cooperative
but PERRL, EOMI, no nystagmus, face symmetric, no dysarthria,
tongue midline.

DISCHARGE EXAM: 
========================
VS: 98.2 PO 107 / 63 R Lying 97 16 100 Ra 
GEN: chronically ill appearing man, lying in bed, nontoxic
HEENT: no scleral icterus, mmm
CV: rrr, no m/r/g
PULM: normal work of breathing on room air
ABD: soft, NT/ND, normal bowel sounds
GU: no foley
EXT: warm, no edema
VASC: 2+ DP pulses
NEURO: alert, answers questions appropriately, no gross CN
deficits
PSYCH: flat affect
 
 
Pertinent Results:
ADMISSION LABS:
========================
___ 03:47AM BLOOD WBC-5.2 RBC-2.79* Hgb-7.9* Hct-24.1* 
MCV-86 MCH-28.3 MCHC-32.8 RDW-16.4* RDWSD-51.1* Plt ___
___ 03:47AM BLOOD ___ PTT-32.9 ___
___ 03:47AM BLOOD Glucose-168* UreaN-10 Creat-0.7 Na-136 
K-3.8 Cl-101 HCO3-23 AnGap-12
___ 03:47AM BLOOD ALT-69* AST-21 LD(LDH)-292* AlkPhos-77 
TotBili-0.8
___ 06:15AM BLOOD Calcium-8.0* Phos-2.6* Mg-1.8
___ 03:47AM BLOOD Albumin-3.4* Iron-12*
___ 03:47AM BLOOD calTIBC-231* ___ Ferritn-264 
TRF-178*
___ 09:58AM BLOOD ___ pO2-74* pCO2-43 pH-7.37 
calTCO2-26 Base XS-0 Comment-GREEN TOP
___ 09:58AM BLOOD Hgb-8.3* calcHCT-25
___ 09:58AM BLOOD Lactate-1.5

MICRO:
========================
   URINE CULTURE (Final ___: 
      ENTEROCOCCUS SP..    >100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------     1 S

blood cultures: no growth at time of discharge 

IMAGING: 
========================
CT Head ___ 
Unchanged hypodense small right frontal subdural measuring 6 mm 
in the maximum width compared with ___.  No acute 
hemorrhage. 

CT Chest ___ 
No signs of intrathoracic infection.  Incidental findings as 
described. 

CT A/P ___ 
1. No acute findings in the abdomen or pelvis to correlate with 
patient's reported symptoms.  Specifically, no abnormal fluid 
collection concerning for abscesses. 
2. Bladder decompressed by a Foley catheter. 
3. Moderate prostatomegaly. 
 
DISCHARGE LABS:
========================
___ 06:55AM BLOOD WBC-6.0 RBC-2.95* Hgb-8.5* Hct-26.8* 
MCV-91 MCH-28.8 MCHC-31.7* RDW-17.2* RDWSD-53.4* Plt ___
___ 06:55AM BLOOD Plt ___
___ 06:55AM BLOOD Glucose-131* UreaN-10 Creat-0.7 Na-141 
K-4.7 Cl-104 HCO3-23 AnGap-14
___ 06:55AM BLOOD Calcium-9.1 Phos-2.6* Mg-1.___ man with recent SDH, pAF (anticoagulation on hold on 
admission), bipolar disorder, and urinary retention, who 
presented from prison with anemia, weight loss, and fevers. 

# ANEMIA: For his anemia, iron studies were consistent with a 
mixed iron-deficiency anemia & anemia of chronic disease. He 
underwent EGD, which showed no abnormality. H/H stabilized 
without intervention. 

# WEIGHT LOSS: For his rapid weight loss, Psychiatry was 
consulted due to concern that patient could be intentionally 
trying to lose weight by not eating. MRI brain showed stable 
SDH, but no acute changes and no sarcoid in the brain; and EGD 
showed no structural lesion that would cause weight loss. He was 
given thiamine, folate, and multivitamins, and was encouraged to 
eat three daily meals with supplements. 

# FEVER: Flu B positive at outside hospital, per report, but he 
was outside of the window for Tamiflu, so he received supportive 
care. Urine culture showed Enterococcal UTI, so he was treated 
with 7-day course of Macrobid. Fever resolved prior to discharge 
and he remained hemodynamically stable. 

# ENCEPHALOPATHY: Patient had no focal neurologic deficits, and 
SDH was stable on imaging. He had no exam findings to suggest 
___, and was given thiamine replacement. MRI without 
acute findings, and patient was at his baseline mental status at 
time of discharge. 

# AFIB: Patient in normal sinus here. Per ___ clinic 
note, it would be okay to restart patient's anticoagulation. 
This was held prior to EGD, and should be restarted at 
discharge. 

# URINARY RETENTION: Foley was initially in place for urinary 
retention, and patient was started on Flomax qhs. Urinary 
retention improved, and foley was discontinued on ___. He 
urinated well from ___, but retained on ___ in the 
afternoon, so was straight cath'd x1 prior to discharge 

TRANSITIONAL ISSUES:
[ ] Please encourage patient to eat 3 meals daily. Closely 
monitor his weight and PO intake
[ ] Continue 7-day course of Macrobid (___) for UTI
[ ] Please restart Warfarin at the dose he was stable on 
previously. Closely monitor INR while on blood thinner 
[ ] Please monitor urine output & straight cath as needed 
[ ] Consider starting stimulant for appetite. Psychiatry 
recommending Amantadine.

STOPPED MEDICATIONS: 
- Stop Potassium supplements, as they are no longer needed 

NEW MEDICATIONS: 
- Multivitamins 1 tab daily
- Thiamine 100mg daily 
- Flomax 0.4mg QHS - started for urinary retention 
- Macrobid ___ BID x7 days - started for UTI 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
2. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Ferrous GLUCONATE 324 mg PO TID 
5. Finasteride 5 mg PO DAILY 
6. FoLIC Acid 1 mg PO DAILY 
7. LOPERamide 4 mg PO BID:PRN diarrhea 
8. Methotrexate 10 mg PO 1X/WEEK (WE) 
9. Mirtazapine 15 mg PO QHS 
10. Ensure Clear (nut.tx.impaired digest fxn) 0.035-1 
gram-kcal/mL oral TID 
11. Omeprazole 20 mg PO DAILY 
12. Potassium Chloride 40 mEq PO DAILY 
13. QUEtiapine Fumarate 200 mg PO QHS 
14. Senna 8.6 mg PO BID:PRN constipation 
15. Vitamin D ___ UNIT PO 1X/MONTH 

 
Discharge Medications:
1.  Multivitamins 1 TAB PO DAILY  
2.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 7 
Days  
3.  Tamsulosin 0.4 mg PO QHS  
4.  Thiamine 100 mg PO DAILY  
5.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
6.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
7.  Cyanocobalamin 1000 mcg PO DAILY  
8.  Ensure Clear (nut.tx.impaired digest fxn) 0.035-1 
gram-kcal/mL oral TID  
9.  Ferrous GLUCONATE 324 mg PO TID  
10.  Finasteride 5 mg PO DAILY  
11.  FoLIC Acid 1 mg PO DAILY  
12.  LOPERamide 4 mg PO BID:PRN diarrhea  
13.  Methotrexate 10 mg PO 1X/WEEK (WE)  
14.  Mirtazapine 15 mg PO QHS  
15.  Omeprazole 20 mg PO DAILY  
16.  QUEtiapine Fumarate 200 mg PO QHS  
17.  Senna 8.6 mg PO BID:PRN constipation  
18.  Vitamin D ___ UNIT PO 1X/MONTH  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
- severe malnutrition
- anemia
- urinary tract infection

SECONDARY DIAGNOSES
- subdural hematoma
- weight loss
- extrapulmonary sarcoidosis 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you. You were admitted to ___ 
___ because you had a fever in prison. 
While you were here, you received antibiotics for a urinary 
infection, and you were treated supportively for the flu.

Your blood counts were a little low, so we got an endoscopy to 
look for possible bleeding in your GI tract. This was normal. 

We also got an MRI of your brain, which showed a stable bleed in 
your brain, and no other disease. 

When you go back to prison, please take all of your medicines as 
prescribed. Alert your doctor if you have any fevers, chills, 
bleeding, or other symptoms that are concerning to you. We 
encourage you to eat three meals daily. 

We wish you all the best in the future.

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___